US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.068 g, 0.399 mmol) was reacted with 2-azidomethyl furan (0.059 g, 0.478 mmol) following the general procedure for click reactions outlined above to produce 4-[2-(1-Furan-2-ylmethyl-1H-[1,2,3]triazol-4-yl)-ethyl]-1H-imidazol-2-ylamine hydrochloride (0.085 g, 72%) of a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.06 (s, 1H), δ 7.53 (s, 1H), δ 6.59 (t, 1H), δ 6.49 (s, 1H), δ 6.44 (dd, 1H), δ 3.05 (t, 2H), δ 2.89 (t, 2H) ppm; 13C (75 MHz, CD3OD) δ 156.4, 154.9, 147.5, 144.1, 126.0, 125.1, 123.8, 110.7, 109.3, 69.8, 23.8, 17.4 ppm; HRMS (ESI) calcd for C12H14N6O(M+) 259.1301, found 259.1305.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.399 mmol, 0.068 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | 2-azidomethyl furan | 0.478 mmol, 0.059 g | N(=[N+]=[N-])CC=1OC=CC1 | C5H5N3O
product | 4-[2-(1-Furan-2-ylmethyl-1H-[1,2,3]triazol-4-yl)-ethyl]-1H-imidazol-2-ylamine hydrochloride | 0.085 g, 72% | Cl.O1C(=CC=C1)CN1N=NC(=C1)CCC=1N=C(NC1)N | InChI=1S/C12H14N6O.ClH/c13-12-14-6-9(15-12)3-4-10-7-18(17-16-10)8-11-2-1-5-19-11;/h1-2,5-7H,3-4,8H2,(H3,13,14,15);1H
